US06586475B1
4-(4-Biphenylylmethoxy)phenyl-N-[2-(N,N-dimethylamino)ethyl]acetamide
To a solution of 4-(4-biphenylylmethoxy)phenylacetic acid (0.6 g) in THF (30 ml) were added WSC (0.4 g) and HOBt (0.3 g). N,N-Dimethylethylenediamine (0.2 g) was added to the reaction mixture. After stirring at room temperature for 18 hr, the reaction mixture was poured onto water and extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated in vacuo. The residue was recrystallized from ethyl acetate/ethanol to obtain the titled compound (0.3 g).

reactant | 4-(4-biphenylylmethoxy)phenylacetic acid | 0.6 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C21H18O3
reactant | WSC | 0.4 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-Dimethylethylenediamine | 0.2 g | CN(CCN)C | C4H12N2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(4-Biphenylylmethoxy)phenyl-N-[2-(N,N-dimethylamino)ethyl]acetamide | 0.3 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)NCCN(C)C)C1=CC=CC=C1 | C25H28N2O2
